US06727264B1
2-METHYL-N-(3-{1-[(3R)-3-(2-NITROPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
A mixture of N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide (5.20 mg, 0.0137 mmol), 2-nitrophenol (100 mg), triphenylphosphine (30.0 mg, 0.115 mmol) and diethyl azodicarboxylate (7.42 mg, 0.0426 mmol) in THF (0.50 mL) was stirred at room temperature for 3 days. Chromatography using silica preparative TLC plates [2.5% of NH3 (2.0 M in methanol) in CHCl3] gave the desired product (2.37 mg, 34.5% yield) as a thick oil: 1H NMR (400 MHz, CDCl3) δ 7.84 (d, 1H), 7.90 (m, 1H), 7.45 (m 1H), 7.30-7.20 (m, 5H), 7.20 (m, 2H), 6.98 (m, 2H), 6.89 (apparent d, 1H, J=7.7 Hz), 5.62 (apparent dd, 1H, J=4.1, 8.9 Hz), 3.10 (m, 2H), 2.60 (m, 2H), 2.53 (m, 2H), 2.30-2.10 (m, 6H), 1.90 (m, 2H), 1.25 (d, 6H, overlapped); ESMS m/e: 502.3 (M+H)+.

reactant | N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | 0.0137 mmol, 5.20 mg | O[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H32N2O2
reactant | 2-nitrophenol | 100 mg | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | triphenylphosphine | 0.115 mmol, 30.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.0426 mmol, 7.42 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | NH3 | 2.0 M | N | H3N
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-METHYL-N-(3-{1-[(3R)-3-(2-NITROPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | 2.37 mg, 34.5% yield | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC[C@H](C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-])C | C30H35N3O4
